US04969949
Preparation of 3-pentylidenamino 3-hydroxypicolinate
To 7.0 g of 3 hydroxypicolinic acid, 10 ml of N,N-dimethylformamide was added, and then 5.9 g of thionyl chloride was dropwise added thereto at a temperature of at most 10° C. The mixture was stirred at 0° C. for 30 minutes. To the reaction solution, 30 ml of chloroform was added, and the mixture was further stirred at 0° C. for 15 minutes. Then, a solution prepared by dissolving 5.0 g of diethyl ketone oxime in 50 ml of chloroform was dropwise added thereto at 0° C., and the mixture was stirred for 30 minutes. Then, 7.9 g of pyridine was dropwise added thereto. Then, the reaction solution was stirred at 0° C. for one hour and at room temperature for one day. The reaction solution was poured into water and extracted with ethyl acetate. Then, the extract was washed with a saturated sodium hydrogencarbonate aqueous solution and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue thereby obtained was purified by silica gel column chromatography by using as a developing solvent a mixture of hexane/ethyl ether to obtain 6.5 g of the above identified compound as slightly yellow transparent viscous liquid.

reactant | hydroxypicolinic acid | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 5.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | diethyl ketone oxime | 5.0 g | C(C)C(CC)=NO | C5H11NO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | pyridine | 7.9 g | N1=CC=CC=C1 | C5H5N
product | 3-pentylidenamino 3-hydroxypicolinate | OC=1C(=NC=CC1)C(=O)ON=C(CC)CC | C11H14N2O3
